US04083983
Cysteamine hydrochloride (2.76 g) was added to a stirred mixture of sodium (1.576 g) in ethanol (75 cc) at 12°, 2-Chloromethyl-3-ethoxypyridine hydrochloride (4.60 g) in ethanol (70 cc) was added over 30 minutes to this mixture stirred at 10°-12°. The mixture was left to stand overnight, filtered and the filtrate was evaporated to dryness. The residue was dissolved in water, acidified to pH4 with hydrochloric acid and extracted with chloroform (discarded). The aqueous phase was adjusted to pH 12 with aqueous sodium hydroxide and was extracted with chloroform. The chloroform extracts were evaporated to give 2-(2-aminoethylthiomethyl)-3-ethoxypyridine (4.2 g) as an oil.

reactant | Cysteamine hydrochloride | 2.76 g | Cl.NCCS
reactant | sodium | 1.576 g | [Na] | Na
reactant | 2-Chloromethyl-3-ethoxypyridine hydrochloride | 4.60 g | Cl.ClCC1=NC=CC=C1OCC
solvent | ethanol | 75 cc | C(C)O | C2H6O
solvent | ethanol | 70 cc | C(C)O | C2H6O
product | 2-(2-aminoethylthiomethyl)-3-ethoxypyridine | 4.2 g | NCCSCC1=NC=CC=C1OCC | C10H16N2OS
